US08383821B2
tert-Butyl 4-((3-bromo-5-(trifluoromethyl)benzyloxy)methyl)-4-phenylpiperidine-1-carboxylate.
1-Bromo-3-(bromomethyl)-5-(trifluoromethyl)benzene (1.0 g, 3.14 mmol) and tert-butyl 4-(hydroxymethyl)-4-phenylpiperidine-1-carboxylate (0.70 g, 2.4 mmol) were combined in dimethylformamide (8 mL) and cooled to 0° C. The reaction was treated with sodium hydride (115 mg, 4.8 mmol), stirred at 0° C. for 1 h, and at room temperature for 30 min. The reaction mixture was diluted with water and extracted with ethyl acetate (2×). The organic layers were pooled together, washed with brine (2×), dried over sodium sulfate, and concentrated. Column chromatography on silica gel (20% ethyl acetate/hexanes) gave 1.6 g (96%). 1H-NMR (CDCl3, 500 MHz) δ 7.61 (s, 1H), 7.39 (s, 1H), 7.34-7.37 (m, 4H), 7.25-7.28 (m, 2H), 4.35 (s, 2H), 3.75-3.77 (m, 2H), 3.41 (s, 2H), 3.01-3.06 (m, 2H), 2.19-2.22 (m, 2H), 1.83-1.89 (m, 2H), 1.44 (s, 9H). Mass spec.: 530.21 (MH)+.

reactant | 1-Bromo-3-(bromomethyl)-5-(trifluoromethyl)benzene | 3.14 mmol, 1.0 g | BrC1=CC(=CC(=C1)C(F)(F)F)CBr | C8H5Br2F3
reactant | tert-butyl 4-(hydroxymethyl)-4-phenylpiperidine-1-carboxylate | 2.4 mmol, 0.70 g | OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C17H25NO3
reactant | sodium hydride | 4.8 mmol, 115 mg | [H-].[Na+]
solvent | dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | tert-Butyl 4-((3-bromo-5-(trifluoromethyl)benzyloxy)methyl)-4-phenylpiperidine-1-carboxylate | BrC=1C=C(COCC2(CCN(CC2)C(=O)OC(C)(C)C)C2=CC=CC=C2)C=C(C1)C(F)(F)F | C25H29BrF3NO3
